US07148226B2
6-Cyclopentyl-6-[2-(3-ethyl-phenyl)-ethyl]-dihydro-pyran-2,4-dione (Enantiomer A)
The title compound was prepared analogously to Example A(64), where 1-Bromo-3-ethyl-benzene was substituted in place of 4-bromo-2-fluoro-1-isopropylbenzene in that example, and Enantiomer A of 6-(2-cyclopentyl-2-hydroxybut-3-ynyl)-2,2-dimethyl-4H-1,3-dioxin-4-one was used in place of the racemic alkyne.

reactant | 1-Bromo-3-ethyl-benzene | BrC1=CC(=CC=C1)CC | C8H9Br
reactant | 4-bromo-2-fluoro-1-isopropylbenzene | BrC1=CC(=C(C=C1)C(C)C)F | C9H10BrF
reactant | 6-(2-cyclopentyl-2-hydroxybut-3-ynyl)-2,2-dimethyl-4H-1,3-dioxin-4-one | C1(CCCC1)C(CC1=CC(OC(O1)(C)C)=O)(C#C)O | C15H20O4
product | 6-Cyclopentyl-6-[2-(3-ethyl-phenyl)-ethyl]-dihydro-pyran-2,4-dione | C1(CCCC1)C1(CC(CC(O1)=O)=O)CCC1=CC(=CC=C1)CC | C20H26O3
